US09120771B2
Synthesis of 3-((3,4-dichlorophenyl)(phenoxy)methyl)azetidine hydrochloride (KHG26767)
1N HCl (3 mL) was added to 10 mL of tertiary butyl 3-((3,4-dichlorophenyl)(phenoxy)methyl)azetidine-1-carboxylate (150 mg, 0.352 mmol) dissolved in a methanol solution, and heated to reflux at 60° C. for one day. Thereafter, the solvent of the reaction mixture was removed by reduced pressure evaporation to obtain the title compound.

reactant | HCl | 1N, 3 mL | Cl | ClH
reactant | tertiary butyl 3-((3,4-dichlorophenyl)(phenoxy)methyl)azetidine-1-carboxylate | 0.352 mmol, 10 mL, 150 mg | ClC=1C=C(C=CC1Cl)C(C1CN(C1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C21H23Cl2NO3
solvent | methanol | CO | CH4O
product | 3-((3,4-dichlorophenyl)(phenoxy)methyl)azetidine hydrochloride | Yield: 97% | Cl.ClC=1C=C(C=CC1Cl)C(C1CNC1)OC1=CC=CC=C1 | InChI=1S/C16H15Cl2NO.ClH/c17-14-7-6-11(8-15(14)18)16(12-9-19-10-12)20-13-4-2-1-3-5-13;/h1-8,12,16,19H,9-10H2;1H
